US06174881B1
31 drops of perchloric acid (70%) were added to a suspension of 1.5 g of 2-chloro-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno-[3,2-f][1,4]diazepine-8-methanol in 31 ml of acetic anhydride until the starting product was completely in solution. After stirring at room temperature for 20 min. the solution was poured into sodium carbonate/ice/dichloromethane and stirred at room temperature for 1 h. After extraction the dichloromethane extracts were dried with sodium sulphate, filtered and evaporated to dryness in a vacuum. The residue was dried in a high vacuum for 2 h., dissolved in 30 ml of acetone, treated with 52 g of 1.6% hydrochloric acid gas in diethyl ether, evaporated in a vacuum (223 mbar) and crystallized from acetone. After crystallization from acetone there was obtained 1 g of methyl[2-chloro-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepin-8-yl-acetate-hydrochloride of m.p. 126-129° C. (dec., strongly hygroscopic).

reactant | 2-chloro-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno-[3,2-f][1,4]diazepine-8-methanol | 1.5 g | ClC1=CC=2C(=NCC=3N(C2S1)CC(N3)CO)C3=C(C=CC=C3)F | C16H13ClFN3OS
reactant | acetic anhydride | 31 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | perchloric acid | 31 drops | Cl(=O)(=O)(=O)O | ClHO4
product | 2-chloro-4-(2-fluoro-phenyl)-8,9-dihydro-6H-imidazo[1,2-a]thieno[3,2-f][1,4]diazepin-8-yl-acetate-hydrochloride | Cl.ClC1=CC=2C(=NCC=3N(C2S1)CC(N3)CC(=O)O)C3=C(C=CC=C3)F | InChI=1S/C17H13ClFN3O2S.ClH/c18-13-6-11-16(10-3-1-2-4-12(10)19)20-7-14-21-9(5-15(23)24)8-22(14)17(11)25-13;/h1-4,6,9H,5,7-8H2,(H,23,24);1H
